*** SPICE deck for cell shift-reg-schematic{sch} from library shift-reg
*** Created on Sat Dec 02, 2023 00:36:41
*** Last revised on Tue Dec 05, 2023 14:37:21
*** Written on Tue Dec 05, 2023 14:37:34 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd vdd

*** TOP LEVEL CELL: shift-reg:shift-reg-schematic{sch}
Mnmos@0 net@0 net@5 net@173 gnd N L=0.35U W=1.4U
Mnmos@1 net@173 net@43 gnd gnd N L=0.35U W=1.4U
Mnmos@2 net@43 net@0 net@184 gnd N L=0.35U W=1.4U
Mnmos@3 net@184 CLK net@2 gnd N L=0.35U W=1.4U
Mnmos@4 net@2 RST gnd gnd N L=0.35U W=1.4U
Mnmos@5 net@4 net@43 net@208 gnd N L=0.35U W=1.4U
Mnmos@6 net@208 CLK net@213 gnd N L=0.35U W=1.4U
Mnmos@7 net@213 net@5 gnd gnd N L=0.35U W=1.4U
Mnmos@8 net@5 net@4 net@10 gnd N L=0.35U W=1.4U
Mnmos@9 net@10 D net@16 gnd N L=0.35U W=1.4U
Mnmos@10 net@16 RST gnd gnd N L=0.35U W=1.4U
Mnmos@11 Q0 net@43 net@37 gnd N L=0.35U W=1.4U
Mnmos@12 net@37 net@41 gnd gnd N L=0.35U W=1.4U
Mnmos@13 net@41 Q0 net@78 gnd N L=0.35U W=1.4U
Mnmos@14 net@78 net@4 net@84 gnd N L=0.35U W=1.4U
Mnmos@15 net@84 RST gnd gnd N L=0.35U W=1.4U
Mnmos@16 net@239 net@252 net@322 gnd N L=0.35U W=1.4U
Mnmos@17 net@322 net@291 gnd gnd N L=0.35U W=1.4U
Mnmos@18 net@291 net@239 net@334 gnd N L=0.35U W=1.4U
Mnmos@19 net@334 CLK net@351 gnd N L=0.35U W=1.4U
Mnmos@20 net@351 RST gnd gnd N L=0.35U W=1.4U
Mnmos@21 net@318 net@291 net@361 gnd N L=0.35U W=1.4U
Mnmos@22 net@361 CLK net@367 gnd N L=0.35U W=1.4U
Mnmos@23 net@367 net@252 gnd gnd N L=0.35U W=1.4U
Mnmos@24 net@252 net@318 net@241 gnd N L=0.35U W=1.4U
Mnmos@25 net@241 Q0 net@307 gnd N L=0.35U W=1.4U
Mnmos@26 net@307 RST gnd gnd N L=0.35U W=1.4U
Mnmos@27 Q1 net@291 net@409 gnd N L=0.35U W=1.4U
Mnmos@28 net@409 net@414 gnd gnd N L=0.35U W=1.4U
Mnmos@29 net@414 Q1 net@454 gnd N L=0.35U W=1.4U
Mnmos@30 net@454 net@318 net@461 gnd N L=0.35U W=1.4U
Mnmos@31 net@461 RST gnd gnd N L=0.35U W=1.4U
Mnmos@32 net@478 net@491 net@561 gnd N L=0.35U W=1.4U
Mnmos@33 net@561 net@530 gnd gnd N L=0.35U W=1.4U
Mnmos@34 net@530 net@478 net@573 gnd N L=0.35U W=1.4U
Mnmos@35 net@573 CLK net@590 gnd N L=0.35U W=1.4U
Mnmos@36 net@590 RST gnd gnd N L=0.35U W=1.4U
Mnmos@37 net@557 net@530 net@600 gnd N L=0.35U W=1.4U
Mnmos@38 net@600 CLK net@606 gnd N L=0.35U W=1.4U
Mnmos@39 net@606 net@491 gnd gnd N L=0.35U W=1.4U
Mnmos@40 net@491 net@557 net@480 gnd N L=0.35U W=1.4U
Mnmos@41 net@480 Q1 net@546 gnd N L=0.35U W=1.4U
Mnmos@42 net@546 RST gnd gnd N L=0.35U W=1.4U
Mnmos@43 Q2 net@530 net@648 gnd N L=0.35U W=1.4U
Mnmos@44 net@648 net@653 gnd gnd N L=0.35U W=1.4U
Mnmos@45 net@653 Q2 net@693 gnd N L=0.35U W=1.4U
Mnmos@46 net@693 net@557 net@700 gnd N L=0.35U W=1.4U
Mnmos@47 net@700 RST gnd gnd N L=0.35U W=1.4U
Mnmos@48 net@717 net@730 net@800 gnd N L=0.35U W=1.4U
Mnmos@49 net@800 net@769 gnd gnd N L=0.35U W=1.4U
Mnmos@50 net@769 net@717 net@812 gnd N L=0.35U W=1.4U
Mnmos@51 net@812 CLK net@829 gnd N L=0.35U W=1.4U
Mnmos@52 net@829 RST gnd gnd N L=0.35U W=1.4U
Mnmos@53 net@796 net@769 net@839 gnd N L=0.35U W=1.4U
Mnmos@54 net@839 CLK net@845 gnd N L=0.35U W=1.4U
Mnmos@55 net@845 net@730 gnd gnd N L=0.35U W=1.4U
Mnmos@56 net@730 net@796 net@719 gnd N L=0.35U W=1.4U
Mnmos@57 net@719 Q2 net@785 gnd N L=0.35U W=1.4U
Mnmos@58 net@785 RST gnd gnd N L=0.35U W=1.4U
Mnmos@59 Q3 net@769 net@887 gnd N L=0.35U W=1.4U
Mnmos@60 net@887 net@892 gnd gnd N L=0.35U W=1.4U
Mnmos@61 net@892 Q3 net@932 gnd N L=0.35U W=1.4U
Mnmos@62 net@932 net@796 net@939 gnd N L=0.35U W=1.4U
Mnmos@63 net@939 RST gnd gnd N L=0.35U W=1.4U
Mpmos@0 net@0 net@5 vdd vdd P L=0.35U W=1.4U
Mpmos@1 net@0 net@43 vdd vdd P L=0.35U W=1.4U
Mpmos@2 net@43 net@0 vdd vdd P L=0.35U W=1.4U
Mpmos@3 net@43 RST vdd vdd P L=0.35U W=1.4U
Mpmos@4 net@43 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@5 net@4 net@43 vdd vdd P L=0.35U W=1.4U
Mpmos@6 net@4 net@5 vdd vdd P L=0.35U W=1.4U
Mpmos@7 net@4 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@8 net@5 net@4 vdd vdd P L=0.35U W=1.4U
Mpmos@9 net@5 RST vdd vdd P L=0.35U W=1.4U
Mpmos@10 net@5 D vdd vdd P L=0.35U W=1.4U
Mpmos@11 Q0 net@43 vdd vdd P L=0.35U W=1.4U
Mpmos@12 Q0 net@41 vdd vdd P L=0.35U W=1.4U
Mpmos@13 net@41 Q0 vdd vdd P L=0.35U W=1.4U
Mpmos@14 net@41 RST vdd vdd P L=0.35U W=1.4U
Mpmos@15 net@41 net@4 vdd vdd P L=0.35U W=1.4U
Mpmos@16 net@239 net@252 vdd vdd P L=0.35U W=1.4U
Mpmos@17 net@239 net@291 vdd vdd P L=0.35U W=1.4U
Mpmos@18 net@291 net@239 vdd vdd P L=0.35U W=1.4U
Mpmos@19 net@291 RST vdd vdd P L=0.35U W=1.4U
Mpmos@20 net@291 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@21 net@318 net@291 vdd vdd P L=0.35U W=1.4U
Mpmos@22 net@318 net@252 vdd vdd P L=0.35U W=1.4U
Mpmos@23 net@318 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@24 net@252 net@318 vdd vdd P L=0.35U W=1.4U
Mpmos@25 net@252 RST vdd vdd P L=0.35U W=1.4U
Mpmos@26 net@252 Q0 vdd vdd P L=0.35U W=1.4U
Mpmos@27 Q1 net@291 vdd vdd P L=0.35U W=1.4U
Mpmos@28 Q1 net@414 vdd vdd P L=0.35U W=1.4U
Mpmos@29 net@414 Q1 vdd vdd P L=0.35U W=1.4U
Mpmos@30 net@414 RST vdd vdd P L=0.35U W=1.4U
Mpmos@31 net@414 net@318 vdd vdd P L=0.35U W=1.4U
Mpmos@32 net@478 net@491 vdd vdd P L=0.35U W=1.4U
Mpmos@33 net@478 net@530 vdd vdd P L=0.35U W=1.4U
Mpmos@34 net@530 net@478 vdd vdd P L=0.35U W=1.4U
Mpmos@35 net@530 RST vdd vdd P L=0.35U W=1.4U
Mpmos@36 net@530 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@37 net@557 net@530 vdd vdd P L=0.35U W=1.4U
Mpmos@38 net@557 net@491 vdd vdd P L=0.35U W=1.4U
Mpmos@39 net@557 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@40 net@491 net@557 vdd vdd P L=0.35U W=1.4U
Mpmos@41 net@491 RST vdd vdd P L=0.35U W=1.4U
Mpmos@42 net@491 Q1 vdd vdd P L=0.35U W=1.4U
Mpmos@43 Q2 net@530 vdd vdd P L=0.35U W=1.4U
Mpmos@44 Q2 net@653 vdd vdd P L=0.35U W=1.4U
Mpmos@45 net@653 Q2 vdd vdd P L=0.35U W=1.4U
Mpmos@46 net@653 RST vdd vdd P L=0.35U W=1.4U
Mpmos@47 net@653 net@557 vdd vdd P L=0.35U W=1.4U
Mpmos@48 net@717 net@730 vdd vdd P L=0.35U W=1.4U
Mpmos@49 net@717 net@769 vdd vdd P L=0.35U W=1.4U
Mpmos@50 net@769 net@717 vdd vdd P L=0.35U W=1.4U
Mpmos@51 net@769 RST vdd vdd P L=0.35U W=1.4U
Mpmos@52 net@769 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@53 net@796 net@769 vdd vdd P L=0.35U W=1.4U
Mpmos@54 net@796 net@730 vdd vdd P L=0.35U W=1.4U
Mpmos@55 net@796 CLK vdd vdd P L=0.35U W=1.4U
Mpmos@56 net@730 net@796 vdd vdd P L=0.35U W=1.4U
Mpmos@57 net@730 RST vdd vdd P L=0.35U W=1.4U
Mpmos@58 net@730 Q2 vdd vdd P L=0.35U W=1.4U
Mpmos@59 Q3 net@769 vdd vdd P L=0.35U W=1.4U
Mpmos@60 Q3 net@892 vdd vdd P L=0.35U W=1.4U
Mpmos@61 net@892 Q3 vdd vdd P L=0.35U W=1.4U
Mpmos@62 net@892 RST vdd vdd P L=0.35U W=1.4U
Mpmos@63 net@892 net@796 vdd vdd P L=0.35U W=1.4U

* Spice Code nodes in cell cell 'shift-reg:shift-reg-schematic{sch}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
*
*For logic simulation:
VCLK CLK 0 PULSE(3.3 0 0 1n 1n 250n 500n)
VD D 0 DC PULSE(3.3 0 0 1n 1n 160n 320n)
VRST RST 0 PULSE(3.3 0 0 1n 1n 10n 2000n)
*
.TRAN 0 1000n
.meas risetime TRIG v(Q0)=0.33 TD=0 rise=1 TARG v(Q0)=2.97 TD=0 rise=1
.meas falltime TRIG v(Q0)=2.97 TD=0 fall=1 TARG v(Q0)=0.33 TD=0 fall=1
.meas tpHL TRIG v(CLK)=1.65 TD=700ns rise=1 TARG v(Q0)=1.65 TD=0 fall=1
.meas tpLH TRIG v(CLK)=1.65 TD=0 rise=1 TARG v(Q0)=1.65 TD=0 rise=1
.meas propagationdelay param=(tpHL+tpLH)/2
.meas chip_current I_vdd AVG I(VDD)
.include Z:\MOS_model.txt
.END
